US05753664
3,5-Dimethyl-1H-pyrazolo[3,4-d]pyridazin-4(5H)-one
4-Acetyl-5-dimethylamino-2-methyl-3(2H)-pyridazinone (137 mg) was added to hydrazine (224 mg)/ethanol (5 ml) and the mixture was refluxed with stirring for 6 hours. After the ethanol-hydrazine was distilled off, the residue was washed with diethyl ether and dried. White powder, 114 g. 1H-NMR (CDCl3) 8: 2.57(3H,s), 3.64(3H,s), 8.30(1H,s).

reactant | 4-Acetyl-5-dimethylamino-2-methyl-3(2H)-pyridazinone | 137 mg | C(C)(=O)C=1C(N(N=CC1N(C)C)C)=O | C9H13N3O2
reactant | hydrazine | 224 mg | NN | H4N2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3,5-Dimethyl-1H-pyrazolo[3,4-d]pyridazin-4(5H)-one | CC1=NNC=2C=NN(C(C21)=O)C | C7H8N4O
